US06977262B2
Ethyl 4-(2-chlorophenyl)-4,7-dihydro-2-methyl-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
A solution of ethyl 3-ketohexanoate (7.5 g), 2-chlorobenzaldehyde (6.6 g), piperidine (1.2 g) and acetic acid (2.25 g) in benzene (50 ml) was heated under reflux for 5 hours, and the reaction mixture was dehydrated using a Dean-Stark condenser. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography using an eluent (hexane-ethyl acetate (3:1)) to give ethyl 2-(2-chlorophenyl)methylen-3-oxohexanoate ((E)/(Z)=1:1 mixture) as a yellow oil. A solution of ethyl 2-(2-chlorophenyl)methylene-3-oxohexanoate ((E)/(Z)=1:1 mixture, 2.8 g), 3-amino-1-methylpyrazole (0.25 g) and p-toluenesulfonic acid (25 mg) in toluene (5 mL) and dimethylsulfoxide (0.5 mL) was heated under reflux for one day. The solvent was evaporated under reduced pressure, and the mixture was extracted with ethyl acetate (10 mL) and washed with a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give an oil. The obtained oil was purified by silica gel column chromatography (eluent (ethyl acetate-methanol (10:1))) to give the title compound as colorless crystals.

reactant | ethyl 2-(2-chlorophenyl)methylene-3-oxohexanoate | ClC1=C(C=CC=C1)C=C(C(=O)OCC)C(CCC)=O | C15H17ClO3
reactant | 3-amino-1-methylpyrazole | 0.25 g | NC1=NN(C=C1)C | C4H7N3
reactant | p-toluenesulfonic acid | 25 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | Ethyl 4-(2-chlorophenyl)-4,7-dihydro-2-methyl-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC)CCC)=NN(C2)C | C19H22ClN3O2
